US05089168
A mixture of 40 g of (S)-4,4-dichloro-2-(p-heptyloxy-phenyl)-5-(2-methylbutyl)-pyrimidine [obtainable by reacting (S)-2-methylbutyl bromide with diethyl malonate in the presence of sodium methanolate, followed by condensation of the resultant diethyl (S)-2-methylbutyl malonate with p-heptyloxybenzamidine hydrochloride, and reacting the resultant (S)-4,6-dihydroxy-2-(p-heptyloxyphenyl)-5-(2-methylbutyl)-pyrimidine with phosphoroxy trichloride and dimethylaniline], 400 ml of methanol, 40 ml of triethylamine and 20 g of Pd-C (5%) is hydrogenated at room temperature under normal pressure until the theoretical amount of hydrogen has been taken up. After filtering off the catalyst and distilling off the solvent, the residue is recrystallized from ethanol. (S)-2-(p-Heptyloxyphenyl)-5-(2-methylbutyl)-pyrimidine is obtained.

reactant | (S)-4,4-dichloro-2-(p-heptyloxy-phenyl)-5-(2-methylbutyl)-pyrimidine | 40 g | ClC1(NC(=NC=C1C[C@H](CC)C)C1=CC=C(C=C1)OCCCCCCC)Cl | C22H32Cl2N2O
reactant | (S)-2-methylbutyl bromide | C[C@H](CBr)CC | C5H11Br
reactant | diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium methanolate | C[O-].[Na+]
reactant | p-heptyloxybenzamidine hydrochloride | Cl.C(CCCCCC)OC1=CC=C(C(=N)N)C=C1
reactant | (S)-4,6-dihydroxy-2-(p-heptyloxyphenyl)-5-(2-methylbutyl)-pyrimidine | OC1=NC(=NC(=C1C[C@H](CC)C)O)C1=CC=C(C=C1)OCCCCCCC | C22H32N2O3
reactant | dimethylaniline | CN(C1=CC=CC=C1)C | C8H11N
reactant | hydrogen | [H][H] | H2
catalyst | Pd-C | 20 g | [Pd] | Pd
solvent | triethylamine | 40 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 400 ml | CO | CH4O
product | (S)-2-(p-Heptyloxyphenyl)-5-(2-methylbutyl)-pyrimidine | C(CCCCCC)OC1=CC=C(C=C1)C1=NC=C(C=N1)C[C@H](CC)C | C22H32N2O
